US07230011B2
5-Benzyloxy-3-(1-methylpiperidin-4-yl)-1H-indole
By a method similar to Preparation 20, using trifluoroacetic acid (1.6 mL), 5-benzyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (222 mg, 0.7 mmol), methylene chloride (3 mL) and triethylsilane (111 μL, 0.7 mmol) gave the tile compound as a yellow foam (210 mg) which was crystallized from ethyl acetate to give 160 mg of pale yellow crystals: mp=163-164° C.; MS(m/e): 321 (M+1), 379 (M+59); Calculated for C21H24N2O: Calcd: C, 78.72; H, 7.55; N, 8.74. Found: C, 78.63; H, 7.64; N, 8.78.

reactant | trifluoroacetic acid | 1.6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-benzyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.7 mmol, 222 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C21H22N2O
reactant | triethylsilane | 0.7 mmol, 111 μL | C(C)[SiH](CC)CC | C6H16Si
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-Benzyloxy-3-(1-methylpiperidin-4-yl)-1H-indole | 210 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C21H24N2O
